US08895582B2
To a solution of ethyl benzo[d]thiazole-2-carboxylate (10 g, 48.25 mmol) in ethanol (200 mL) was added hydrazine (15.5 g, 482.5 mmol). The reaction mixture was stirred at RT for 30 min and concentrated under high vacuum to remove hydrazine. The resulting residue was triturated with ethanol (40 mL) to give benzo[d]thiazole-2-carbohydrazide (9.3 g, quant.) LRMS (M+H+) m/z 194.0.

reactant | ethyl benzo[d]thiazole-2-carboxylate | 48.25 mmol, 10 g | S1C(=NC2=C1C=CC=C2)C(=O)OCC | C10H9NO2S
reactant | hydrazine | 482.5 mmol, 15.5 g | NN | H4N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | benzo[d]thiazole-2-carbohydrazide | 9.3 g | S1C(=NC2=C1C=CC=C2)C(=O)NN | C8H7N3OS
